US07452911B2
3.73a 1-[3-(4-bromo-phenyl)-prop-2-ynyl]-pyrrolidine
Prepared according to general working method I from 4-bromo-iodobenzene (10.9 g, 38.5 mmol) and 1-prop-2-ynyl-pyrrolidine (4.20 g, 71% purity, 27.3 mmol).

reactant | 4-bromo-iodobenzene | 38.5 mmol, 10.9 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 1-prop-2-ynyl-pyrrolidine | 27.3 mmol, 4.20 g | C(C#C)N1CCCC1 | C7H11N
product | 1-[3-(4-bromo-phenyl)-prop-2-ynyl]-pyrrolidine | BrC1=CC=C(C=C1)C#CCN1CCCC1 | C13H14BrN
